US09278972B2
Preparation of (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (CLTOL)
A mixture of (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLA; 0.89 g, 5 mmol), 4,6-dichloro-2-(propylthio)pyrimidin-5-amine (CLINA; 1.19 g, 5 mmol) and triethanolamine (1.49 g, 10 mmol) was stirred neat for 24 h at 90° C. After cooling to ambient temperature, the viscous reaction mixture was dissolved by the addition of acetic acid (3 mL). While maintaining the reaction temperature at 15-20° C. there was added sodium nitrite (0.38 g, 5.5 mmol) and the reaction mixture left stirring for 12 h. The reaction mixture was diluted with ethyl acetate (35 mL), washed with water (2×25 mL) and evaporated under reduced pressure. The crude product was triturated in hexane (20 mL) and filtered to give CLTOL as an off-white powder (1.61 g, 83% yield): 13C NMR (CDCl3, 125 MHz) δ13.4, 22.0, 33.5, 33.7, 61.75, 61.77, 71.1, 74.9, 75.4, 82.0, 131.8, 150.7, 152.9, 171.8.

reactant | (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 5 mmol, 0.89 g | N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C7H15NO4
reactant | 4,6-dichloro-2-(propylthio)pyrimidin-5-amine | 5 mmol, 1.19 g | ClC1=NC(=NC(=C1N)Cl)SCCC | C7H9Cl2N3S
reactant | triethanolamine | 10 mmol, 1.49 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | sodium nitrite | 5.5 mmol, 0.38 g | N(=O)[O-].[Na+]
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 1.61 g, 83% yield | ClC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@H]2[C@@H]([C@@H]([C@H](C2)OCCO)O)O | C14H20ClN5O4S
